US04331676
A solution of 5.16 g (0.103 mmol) of benzyl chloroformate in 100 ml of dry dioxan is added dropwise over a period of 30 minutes to a solution of 10.60 g (0.1 mmol) of 4-aminobutyric acid in 300 ml of 1 N sodium hydroxide solution in an ice bath. The reaction mixture is stirred for 30 minutes at room temperature, acidified with 2 N hydrochloric acid and extracted with methylene chloride. The organic phase is dried with sodium sulphate and concentrated in vacuo. The 4-benzyloxycarbonylaminobutyric acid obtained is recrystallised from ethyl acetate, methylene chloride and hexane; melting point 61°-62°.

reactant | benzyl chloroformate | 0.103 mmol, 5.16 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 4-aminobutyric acid | 0.1 mmol, 10.60 g | NCCCC(=O)O | C4H9NO2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1 N, 300 ml | [OH-].[Na+]
product | 4-benzyloxycarbonylaminobutyric acid | C(C1=CC=CC=C1)OC(=O)NCCCC(=O)O | C12H15NO4
